US07781426B2
3-Chloroperbenzoic acid (77%, 120 mg, 0.486 mmol) was added to a solution of ethyl (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)pyridin-3-yl](ethyl)amino]methyl}cyclohexyl)acetate (152.9 mg, 0.243 mmol) in dry CH2Cl2 (10 mL) at 0° C. under N2. After 15 min at 0° C., the reaction was stirred at room temperature for 5 h. The reaction mixture was diluted with CH2Cl2 (20 mL) and washed with saturated Na2SO3 (10 mL) and saturated K2CO3 (2×20 mL). The organic layers were dried (Na2SO4) and concentrated in vacuo to afford ethyl (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-1-oxidopyridin-3-yl](ethyl)amino]methyl}cyclohexyl)acetate. LCMS calc.=646.3; found=646.3 (M+1)+.

reactant | 3-Chloroperbenzoic acid | 0.486 mmol, 120 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | ethyl (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)pyridin-3-yl](ethyl)amino]methyl}cyclohexyl)acetate | 0.243 mmol, 152.9 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=NC=CC=C1N(CC)C[C@@H]1CC[C@H](CC1)CC(=O)OCC)C)(F)F | C31H37F6N3O4
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | ethyl (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-1-oxidopyridin-3-yl](ethyl)amino]methyl}cyclohexyl)acetate | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=[N+](C=CC=C1N(CC)C[C@@H]1CC[C@H](CC1)CC(=O)OCC)[O-])C)(F)F | C31H37F6N3O5
